US07932262B2
Step 4. Preparation of tert-butyl 4-(2-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-ylamino) quinazolin-7-yloxy)piperidine-1-carboxylate
A solution of tert-butyl 4-(2-(ethylsulfonyl) quinazolin-7-yloxy)piperidine-1-carboxylate (1 eq) and 5-amino-1,3-dihydro-benzimidazole-2-one (5 eq) in acetonitrile was heated in sealed tube at 110° C. for 48 h. The product was filtered, washed and dried. A brown solid, yield 50%. ES/MS m/z 477.5 (MH+).

reactant | tert-butyl 4-(2-(ethylsulfonyl) quinazolin-7-yloxy)piperidine-1-carboxylate | 1 eq | C(C)S(=O)(=O)C1=NC2=CC(=CC=C2C=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C20H27N3O5S
reactant | 5-amino-1,3-dihydro-benzimidazole-2-one | 5 eq | NC1=CC2=C(NC(N2)=O)C=C1 | C7H7N3O
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-butyl 4-(2-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-ylamino) quinazolin-7-yloxy)piperidine-1-carboxylate | yield 50% | O=C1NC2=C(N1)C=CC(=C2)NC2=NC1=CC(=CC=C1C=N2)OC2CCN(CC2)C(=O)OC(C)(C)C | C25H28N6O4
